Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
fever, chills, cough
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old female with transformed DLBCL with 
a
history of stage IIA follicular lymphoma with treatment
related MDS ___ allogeneic stem cell transplant on ___ who
presents with four days of productive cough, fevers and chills.

She called her ___ clinic on ___ and reported fever,
chills, and productive cough. She had been seen at urgent care
earlier on ___ and received CXR which was consistent with
pneumonia, and she was treated with ceftriaxone 1g, steroids and
DuoNebs. She called ___ clinic due to lack of improvement.
She was referred to ED for admission and IV antibiotics, given
her pneumonia and history of allogenic transplant.

In the ED, her vitals were: T 98.8, HR 96, BP 129/65, RR 18, 
SPO2
97% RA. Lung exam was significant for diffuse expiratory 
wheezing
and rhonchi. Labs were remarkable for WBC 13, HGB 13, plt 256, K
4.6, Cr 1.2. She was given azithromycin, albuterol nebs, DuoNeb,
IVF.

On arrival to OMED, she reports she has laryngitis and continued
cough. She has multiple sick contacts (grandchildren at home who
have colds). She denies current fever, chills, abdominal pain,
nausea, diarrhea, dysuria, leg swelling.

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
 Transformed DLBCL with a history of follicular lymphoma stage
IIA
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the
duodenum, retroperitoneum and celiac access.  Biopsies showed
Follicular lymphomas grade II/III.  Reportedly negative staging
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical,
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal
lymphadenopathy, and small mesenteric
lymphadenopathy, all markedly FDG-avid and concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are
pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clinically improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid
disease with a residual focus of avidity in the bed of the 
former
abdominal mass, SUV 3
- ___ C4 Rituximab
- ___ C4 ICE followed by stem cell mobilization and
collection, BMBx showed a nest of CLL unrelated to her 
aggressive
lymphoma
- ___ Presented with large DVTs, SVC filter placed
- ___ D0 of a BEAM autoSCT, course notable for mucositis
- ___ Switched to Rivaroxiban for AC
- ___ PET CT ___, PFTs with normal Hb adjusted DLCO
- ___ IVIg 400 mg/kg c/b fever, aseptic meningitis,
cytopenias
- ___ Started IFRT to paraaortic LNs, 3600 cGy total dose.
- ___, Norovirus
- ___ Presented with dyspnea, DLCO 79% predicted (adjusted
for Hb). Started prednisone 80 mg PO daily and adjusted with
DLCO.  Finally d/ced ___. 
- IVIg 400 mg/kg, continues monthly for
Hypogammaglobuonemia/CVID.
- ___, CT torso with no evidence of active disease. Stable
appearance of a conglomeration of mesenteric lymph nodes. 
- ___, Right total knee replacement, complicated by foot
drop likely due to irritation of peroneal nerve from the CPM
machine, as well as a cellulitis of the right leg; same leg as
her previous DVT and her circulation is poor. 
- ___, CT Torso with no evidence of active disease. 
Stable appearance of conglomerate of mesenteric LN's. Increased
dilatation of the main pulmonary artery suggests worsening
pulmonary arterial hypertension of indeterminate etiology.
- ___, CT torso with no evidence of active disease. Increased
dilation of pulmonary artery.  Evaluated by Dr. ___
- ___, Increasing right leg swelling and shortness of breath
with noted DVT; no DVT.  Xarelto increased back to 20 mg
daily(had been decreased given age and prior chronic DVT).  No
evidence for lymphoma on CT imaging.
- ___, noted drop in blood counts. Bone marrow biopsy showed
dysplasia in all cell lines with ~ 6% blasts noted in aspirate. 
Cytogenetics showing multiple abnormalities. 
- ___, C1 Dacogen
- ___, admitted with fever in setting of neutropenia, and
increasing right sided back pain.  No infectious source found;
after consultation with ID, it was decided to treat empirically
for presumptive osteomyelitis/discitis with 6 weeks of 
vancomycin
(750mg IV q12h), cefepime (2g IV q12h), micafungin (100 mg PO
q24h).  Required short time of pain medicines for back pain. 
- ___, C2 Dacogen
- ___, admitted with increased confusion and issues of
word finding.  Head CT and MRI of the head did not show any
abnormality.  Treated with concern for meningitis and remained 
on
her other antibiotics for treatment of presumed osteomyelitis. 
Confusion resolved and no infectious etiology was noted except
for possible UTI. 
- ___, Admitted with 2 days of nausea, vomiting, fever,
confusion, and urinary incontinence, with infectious workup,
overall negative, except for positive coronavirus.  CTA negative
for PE and there was no evidence of pulmonary or abdominal
infection on imaging.  MRI of brain was negative for an
intracranial process; MRI spine was negative for abscess or
osteomyelitis. 
- ___, C3 Dacogen and discharged to home on ___.
- ___, Admitted with diarrhea, decreased appetite. 
Received IVF support, transfusions and potassium replacement;
discharged on ___. 
- ___, C4 Dacogen
- ___, Admitted with cough and wheezing.  + RSV, treated
with empiric antibiotics, palvilizumab, ribavirin and IVIG.
- ___, Bone marrow aspirate and biopsy showed a cellular
marrow by aspirate with trilineage dyspoitic maturation. By
immunohistochemistry CD34 highlights blast cells comprising less
than 5% of the overall cellularity. Cellularity in the core
biopsy is low, which may be a sampling artifact.  Cytogenetics
revealed no cells noted with the previously observed complex
abnormal karyotype with monosomy 7, deletion of 5q and other
chromosome aberrations associated with myelodysplasia with an
unfavorable prognosis.
- ___, Admitted for MUD allogeneic transplant with Flu/Bu
and ATG conditioning.  D0 = ___. 
- ___ - ___, admission for aseptic meningitis; noted CMV
viremia, on Valganciclovir.
- ___ - ___, admission for headache, nausea and vomiting
and development of fevers to 103 with coagulase-negative
gram-positive cocci noted as S. epidermidis bacteremia;
Daptomycin for total 6 week course of antibiotics(completed
___.  Also noted for new DVT's of lower legs, on Lovenox
BID. 
- ___, admission for increased rash and diarrhea. 
Started increased systemic steroids and now tapered.

TRANSPLANT DATA:
  Transplant Date: ___
  Graft: URD
  Conditioning Intensity: Reduced-Intensity
  Conditioning Regimen: Flu/Bu/ATG

  Donor Info: ___ CMV(+), ABO: Opos
  Recipient Info: CMV(+), ABO: Opos  
 

PAST MEDICAL HISTORY:  
- CVID
- GERD                                          
- Osteoarthritis                                         
- RLE DVT, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- R internal carotid cavernous sinus aneurism ___ coiling 
___
- Asthma
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- S. epidermidis bacteremia, POC removed; completed course of
Daptomycin
- + Parainfluenza, ___
 
Social History:
___
Family History:
Brother died at ___ from lymphoma. No other family history of
cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
___ ___ Temp: 98.3 PO BP: 110/42 HR: 91 RR: 20 O2 sat: 97%
O2 delivery: Ra 
General:  Well appearing in NAD, sitting comfortably.
HEENT:  slight ptosis of right eye, Sclerae anicteric. MMM. No
lesions. No oropharyngeal erythema or thrush 
NECK:  Supple. No cervical or supraclavicular lymphadenopathy
CV:  RRR, NL S1S2 no MRG
PULM:  Bronchial breath sounds, diffuse expiratory wheezes
ABD:  BS normoactive, soft, NTND. No HSM appreciated. No
peritoneal signs.
GU: Cutaneous candiasis in groin, R worse than L
EXT:  Legs with nonpitting edema bilaterally. R wrist brace.
Calves and feet are cool to the touch.
SKIN: venous stasis changes to bilateral calves
NEURO:  CN 6 palsy of the right eye, mild proptosis of the right
eye, and hyperthesia of the right V1 distribution. CN II-XII
otherwise intact. Strength ___ in all extremities. Sensation
intact in all extremities.

Discharge Physical Exam:
VS: ___ ___ Temp: 98.1 PO BP: 124/51 Sitting HR: 95 RR: 18
O2 sat: 97% O2 delivery: Ra 
General:  Well appearing in NAD, sitting comfortably.
HEENT:  slight ptosis of right eye, Sclerae anicteric. MMM. No
lesions. No oropharyngeal erythema or thrush 
NECK:  Supple. No cervical or supraclavicular lymphadenopathy
CV:  RRR, NL S1S2 no MRG
PULM:  Bronchial breath sounds, diffuse expiratory wheezes
ABD:  BS normoactive, soft, NTND. No HSM appreciated. No
peritoneal signs.
EXT:  Legs with nonpitting edema bilaterally. R wrist brace.
Calves and feet are cool to the touch.
SKIN: venous stasis changes to bilateral calves
NEURO:  CN 6 palsy of the right eye, mild proptosis of the right
eye

DISCHARGE PHYSICAL EXAM:
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:00PM BLOOD WBC-13.0* RBC-4.07 Hgb-13.0 Hct-40.9 
MCV-101* MCH-31.9 MCHC-31.8* RDW-14.1 RDWSD-51.1* Plt ___
___ 11:00PM BLOOD Neuts-93.1* Lymphs-4.5* Monos-1.8* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-12.08* AbsLymp-0.59* 
AbsMono-0.24 AbsEos-0.01* AbsBaso-0.01
___ 11:00PM BLOOD Glucose-234* UreaN-14 Creat-1.2* Na-142 
K-4.6 Cl-105 HCO3-21* AnGap-16
___ 11:00PM BLOOD ALT-14 AST-19 AlkPhos-151* TotBili-0.2
___ 11:00PM BLOOD Albumin-4.2
___ 11:00PM BLOOD IgG-713
___ 01:51AM BLOOD Lactate-1.3

MICRO:
======
___ urine culture: negative
___ fluA&B PCR: negative
___ blood cultures: pending ***
___ urine legionella antigen: negative
___ urine strep pneumo Ag: pending ***
___ respiratory viral screen and culture: pending ***

IMAGING AND STUDIES:
===================
___ CXR:
No acute intrathoracic process.

___ ECG: QTc 487

DISCHARGE LABS:
===============

___ 07:00AM BLOOD WBC-5.6 RBC-3.91 Hgb-12.6 Hct-39.7 
MCV-102* MCH-32.2* MCHC-31.7* RDW-14.4 RDWSD-53.7* Plt ___
___ 07:00AM BLOOD Plt ___
 
Brief Hospital Course:
SUMMARY:
========= 
Ms. ___ is a ___ year old female with transformed DLBCL with 
a history of stage IIA follicular lymphoma with treatment 
related MDS ___ allogeneic stem cell transplant on ___ who 
presents with four days of productive cough, fevers and chills 
consistent with community acquired pneumonia 

ACTIVE ISSUES:
=============
#community acquired pneumonia 
Most likely etiology is community acquired pneumonia, given 
absence of consolidation on CXR, her sick contacts (grandkids 
with colds), and lung exam with bronchial breath sounds and 
wheezing. Flu swab negative. Preliminary results from the viral 
respiratory screen was negative. Given her immunocompromised 
state, will treat for CAP. D1 CTX ___, D1 azithromycin ___. 
Her symptoms were treated with DuonNebs, Flovent, albuterol, and 
guafenisen. We discharged her home with lovenox to complete a 5 
day course of antibiotics ending on ___

#CVID
Receives IVIG every 1 - 2 months to keep IGG > 500. Her last 
infusion was ~1 month ago. IGG 715 this admission, so IVIG was 
not given this admission. She was monitored for signs of 
infection and treated as above.

#MDS ___ allogeneic stem cell transplant on ___
Her outpatient oncology team was notified of her admission. Her 
home prednisone and MMF were continued, as well as her home 
acyclovir and Bactrim.

#Cutaneous candidiasis of groin
Has required 5-day course of fluconazole in past to resolve. She 
was treated with nystatin cream only, due to hesitancy to 
prescribe a systemic antifungal with other QTc prolonging meds 
(azithro).

CHRONIC ISSUES:
===============
#Right lower extremity DVT: IVC filter in place. Continued home 
rivaroxaban.

#GERD: continued home omeprazole.

#Osteoarthritis 
#Cervical radiculopathy
#Sciatica
#Migraines
Continued home gabapentin. Tylenol PRN.

#Obstructive sleep apnea: she used her home CPAP while 
inpatient.

#H/O cerebral aneurism: Noted on MRA with small R internal 
carotid cavernous sinus aneurysm; coil placed in the aneurysm 
(___). Her home Neurontin was continued.

#Asthma: continued home Flovent and DuoNebs, with albuterol PRN.

#Hypertension: she was noted to not be on antihypertensives at 
home. Her BP was monitored while inpatient.

#Mood disorder: her home venlafaxine was continued.

TRANSITIONAL ISSUES:
===================
[]Levofloxacin course ending ___
[]Follow up with oncology ___
[]Viral culture pending on discharge 
[]Glucose on admission was 234, consider screening for DM2 as 
outpatient 

#HCP/CONTACT: ___ (daughter) ___
#CODE STATUS: full code (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Gabapentin 400 mg PO BID 
4. PredniSONE 5 mg PO DAILY 
5. Zofran (ondansetron HCl) 4 mg oral Q8H 
6. Mycophenolate Mofetil 500 mg PO BID 
7. Venlafaxine 25 mg PO DAILY 
8. Acyclovir 400 mg PO TID 
9. Cephalexin ___ mg PO ONCE 
10. Restasis 0.05 % ophthalmic (eye) BID 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheezing 
12. Hydrocortisone Cream 1% 1 Appl TP BID 
13. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath 
14. Nystatin Cream 1 Appl TP BID:PRN fungal rash 
15. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
unspecified 
16. Vitamin D ___ UNIT PO DAILY 
17. FoLIC Acid 1.6 mg PO DAILY 
18. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1.  GuaiFENesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth q12hrs prn Disp #*10 
Tablet Refills:*0 
2.  Levofloxacin 500 mg PO Q24H Duration: 2 Days 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*2 Tablet Refills:*0 
3.  Acyclovir 400 mg PO TID  
4.  Cephalexin ___ mg PO ONCE  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheezing  
6.  FoLIC Acid 1.6 mg PO DAILY  
7.  Gabapentin 400 mg PO BID  
8.  Hydrocortisone Cream 1% 1 Appl TP BID  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath  
10.  Mycophenolate Mofetil 500 mg PO BID  
11.  Nystatin Cream 1 Appl TP BID:PRN fungal rash  
12.  Omeprazole 20 mg PO DAILY  
13.  Ondansetron (ondansetron HCl) 4 mg oral Q8H  
14.  PredniSONE 5 mg PO DAILY  
15.  Restasis 0.05 % ophthalmic (eye) BID  
16.  Rivaroxaban 20 mg PO DAILY  
17.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
18.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
unspecified  
19.  Venlafaxine 25 mg PO DAILY  
20.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
1) Community Acquired Pneumonia 
2) CVID 
3) MDS ___ allogenic stem cell transplant 
4) Cutaneous candidiasis of groin 
5) RLE DVT

Secondary Diagnosis
===================
1) GERD 
2) OSA 
3) OA 
4) Asthma 
5) HTN
6) Mood disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You had symptoms of a respiratory infection.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were started on antibiotics to treat a possible bacterial 
lung infection, and were treated symptomatically with inhalers, 
pain medicine and fluids.
- Many tests were done to look for causes of infection.
- We feel you most likely had a bacterial infection of your 
lungs and gave you medicine to treat it 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___